US08048909B2
Ethyl 2,4-dimethyl-5-phenyl-1H-pyrrole-3-carboxylate
Using ethyl 2-acetyl-3-methyl-4-oxo-4-phenylbutanoate (20.3 g) and ammonium acetate (6.61 g), a procedure as in Reference Example 14 was performed to give the title compound as a brown oil (yield 17.1 g, 91%).

reactant | ethyl 2-acetyl-3-methyl-4-oxo-4-phenylbutanoate | 20.3 g | C(C)(=O)C(C(=O)OCC)C(C(C1=CC=CC=C1)=O)C | C15H18O4
reactant | ammonium acetate | 6.61 g | C(C)(=O)[O-].[NH4+]
product | Ethyl 2,4-dimethyl-5-phenyl-1H-pyrrole-3-carboxylate | yield 17.1 g, 91% | CC=1NC(=C(C1C(=O)OCC)C)C1=CC=CC=C1 | C15H17NO2
